US05883106
B. 4-[3-[4(2-Methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carbaldehyde
A solution of [4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-yl]methanol (230 mg, 0.6 mmol) in dichloromethane (5 ml) was added dropwise to the Swern reagent [1.2 mmol, 2 equiv., prepared by adding a solution of DMSO (143 mg) in dichloromethane (5 ml) to a solution of oxalyl chloride (155 mg, 1.2 mmol) in dichloromethane (10 ml) at -78° C.] under argon at -78° C. The reaction mixture was stirred for 0.5 h at -78° C. and then this was allowed to warm to -20° C. over 2 h. To the reaction mixture was added triethylamine (1 ml) and the resulted solution was stirred for 0.5 h at 0° C. The mixture was partitioned between saturated aqueous NH4Cl (50 ml) and ethyl acetate (50 ml), the organic phase was separated and the aqueous phase was extracted with ethyl acetate (20 ml×2). The combined organic extracts were washed with water (50 ml) and brine (50 ml), dried (MgSO4) and concentrated in vacuo. The residual oil was purified by column chromatography {SiO2, 100 g; eluted with dichloromethane/ethanol (20/1)} to afford 178 mg (77%) of the titled compound as white solids.

reactant | [4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-yl]methanol | 0.6 mmol, 230 mg | CC=1N(C=CN1)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)CO | C22H24N2O2S
reactant | DMSO | 143 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.2 mmol, 155 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[3-[4(2-Methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carbaldehyde | 178 mg, 77% | CC=1N(C=CN1)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C=O | C22H22N2O2S
